* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\TJB+FETs\COMB01op.asc
J1 D G S JFET
Rb cc B {Rb}
Rc cc C {Rc}
Vcc cc 0 {Vcc}
Q1 C B D 0 TBJ
Rs S 0 {Rs}
R1 cc G {R1}
R2 G 0 {R2}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.jft
.op
.model JFET njf(Beta=1m Vto=-6)
.param Vcc=30 R1=33k R2=18k Rb=820k Rc=680 Rs=330
.model TBJ NPN(IS=10F BF=350)
.backanno
.end
